US05968949
(±)-trans-4a-(3-Hydroxyphenyl)-2-methyl-6-phenyl-1,2,3,4,4a,5,8,8a-octahydroisoquinoline
2.7 ml (29 mmol) of boron uibromide were dissolved in 85 ml of dry CHCl3 under a nitrogen atmosphere. 1.6 g (4.8 mmol) of (±)-trans4a-(3-methoxyphenyl)-2-methyl-6-phenyl-1,2,3,4,4a,5,8,8a-octahydroisoquinoline dissolved in 17 ml of dry CHCl3 were added dropwise at room temperature. After 2 h the reaction mixture was poured onto 85 g of crushed ice containing 8.5 ml of conc. NH4OH and stirred 20 min. The phases were separated, the organic phase was dried over Na2SO4 and the solvent removed in vacuo. The residue was purified by flash chromatography, eluting with a mixture CH2Cl2 /MeOH/conc. NH4OH 82:13:0.8 respectively. The resulting solid was triturated with acetone, filtered, washed and dried, yielding 0.6 g of the title compound. M.p.=243-246° C.

reactant | boron | 29 mmol, 2.7 ml | [B] | B
reactant | (±)-trans4a-(3-methoxyphenyl)-2-methyl-6-phenyl-1,2,3,4,4a,5,8,8a-octahydroisoquinoline | 4.8 mmol, 1.6 g | COC=1C=C(C=CC1)[C@@]12CCN(C[C@@H]2CC=C(C1)C1=CC=CC=C1)C | C23H27NO
reactant | NH4OH | [NH4+].[OH-]
solvent | CHCl3 | 85 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 17 ml | C(Cl)(Cl)Cl | CHCl3
product | (±)-trans-4a-(3-Hydroxyphenyl)-2-methyl-6-phenyl-1,2,3,4,4a,5,8,8a-octahydroisoquinoline | 0.6 g | OC=1C=C(C=CC1)[C@@]12CCN(C[C@@H]2CC=C(C1)C1=CC=CC=C1)C | C22H25NO
